US05849757
Ethyl 6,7-difluoro-1-[(1R,2S)-2-fluorocyclopropyl]1,4-dihydro-8-methyl-5-nitro-4-oxoquinoline-3-carboxylate
To 16.4 g (53.8 mmol) of ethyl 2,4,5-trifluoro-3-methyl-6-nitrobenzoylacetate were added 17.9 ml (107.6 mmol) of ethyl orthoformate and 29 ml of acetic anhydride, followed by 2 hours of stirring at 100° C. The solvent was evaporated, and the resulting residue was dissolved in 200 ml of toluene and mixed with 16 g (64.7 mmol) of p-toluenesulfonic acid salt of (1R,2S)-2-fluorocyclopropylamine. With cooling in an ice bath, thereto was added dropwise 10.87 ml (78 mmol) of triethylamine dissolved in 30 ml of toluene. After completion of the dropwise addition, this was stirred for 2 hours at the same temperature. The reaction solution was mixed with 200 ml of ethyl acetate and washed with water (500 ml×1) and saturated brine (500 ml×2) in that order. The organic layer was dried over anhydrous sodium sulfate and the solvent was evaporated. The resulting residue was dissolved in 150 ml of 1,4-dioxane. Thereto was subsequently added 3.23 g (80.7 mmol) of sodium hydride in small portions under ice cooling. After 1 hour of stirring at room temperature, the reaction solution was poured into 0.5N hydrochloric acid which was cooled in an ice bath. The thus formed crystals were collected by filtration, washed with water (100 ml×3) and then recrystallized from chloroform-ethanol to yield 13.9 g (70%) of the title compound.

reactant | ethyl 2,4,5-trifluoro-3-methyl-6-nitrobenzoylacetate | 53.8 mmol, 16.4 g | FC1=C(C(=O)CC(=O)OCC)C(=C(C(=C1C)F)F)[N+](=O)[O-] | C12H10F3NO5
reactant | ethyl orthoformate | 107.6 mmol, 17.9 ml | C(OCC)([O-])[O-]
reactant | acetic anhydride | 29 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | p-toluenesulfonic acid | 64.7 mmol, 16 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | (1R,2S)-2-fluorocyclopropylamine | F[C@@H]1[C@@H](C1)N | C3H6FN
reactant | triethylamine | 78 mmol, 10.87 ml | C(C)N(CC)CC | C6H15N
reactant | sodium hydride | 80.7 mmol, 3.23 g | [H-].[Na+]
reactant | hydrochloric acid | 0.5N | Cl | ClH
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | Ethyl 6,7-difluoro-1-[(1R,2S)-2-fluorocyclopropyl]1,4-dihydro-8-methyl-5-nitro-4-oxoquinoline-3-carboxylate | 13.9 g, 70% | FC=1C(=C2C(C(=CN(C2=C(C1F)C)[C@H]1[C@H](C1)F)C(=O)OCC)=O)[N+](=O)[O-] | C16H13F3N2O5
